### PR TITLE
[Merged by Bors] - feat(CategoryTheory): presheaves of types which preserve a limit

### PR DESCRIPTION
**Pull request by joelriou**
Let `F : J ⥤ Cᵒᵖ` be a functor. We show that a presheaf `P : Cᵒᵖ ⥤ Type w` preserves the limit of `F` iff `P` is a local object with respect to a suitable family of morphisms in `Cᵒᵖ ⥤ Type w` (this family contains `1` or `0` morphism depending on whether the limit of `F` exists or not).

---

- [x] depends on: #38257

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Types/PreservesLimit.lean [hunk 1]
```diff
@@ -0,0 +1,150 @@
...
+  shrinkYoneda.obj (limit F).unop
+
+/-- Let `F : J ⥤ Cᵒᵖ` be a functor. This is the family of morphisms
+which consists of the single morphism
+`colimit (F.leftOp ⋙ shrinkYoneda) ⟶ shrinkYoneda.obj (limit F).unop`
+if `F` has a limit, or is the empty family otherwise. -/
+noncomputable def preservesLimitHomFamily (h : PLift (HasLimit F)) :
+    preservesLimitHomFamilySrc F ⟶ preservesLimitHomFamilyTgt F h :=
+  letI := h.down
+  coconePtToShrinkYoneda (limit.cone F) (colimit.isColimit _)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Types/PreservesLimit.lean:125]: These three could maybe be abbrevs?

File: Mathlib/CategoryTheory/ObjectProperty/FunctorCategory/Presheaf.lean [hunk 2]
```diff
@@ -0,0 +1,150 @@
...
+  invFun s := hc'.desc (Cocone.mk _
+    { app j := shrinkYonedaEquiv.symm (s.val j.unop)
+      naturality j₁ j₂ f := by
+        rw [← s.property f.unop]
+        dsimp
+        rw [shrinkYonedaEquiv_symm_map, Category.comp_id] })
+  left_inv f := hc'.hom_ext (by simp)
+  right_inv u := by ext; simp
+
+
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/ObjectProperty/FunctorCategory/Presheaf.lean:63]:
```suggestion
```

File: Mathlib/CategoryTheory/Limits/Types/PreservesLimit.lean [hunk 3]
```diff
@@ -0,0 +1,150 @@
...
+        rw [shrinkYonedaEquiv_shrinkYoneda_map]
+        apply map_shrinkYonedaEquiv }
+  invFun s := hc'.desc (Cocone.mk _
+    { app j := shrinkYonedaEquiv.symm (s.val j.unop)
+      naturality j₁ j₂ f := by
+        rw [← s.property f.unop]
+        dsimp
+        rw [shrinkYonedaEquiv_symm_map, Category.comp_id] })
+  left_inv f := hc'.hom_ext (by simp)
+  right_inv u := by ext; simp
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Types/PreservesLimit.lean]: a few questions/suggestions for this one

- This definition should be in an other file: I think `CategoryTheory.Limits.Types.Yoneda` is a good target (because it contains the similar construction I link below).
- This is essentially (a variation on) the `LocallySmall` + `shrinkYoneda` version of the existing [CategoryTheory.Limits.compCoyonedaSectionsEquiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Limits/Types/Yoneda.html#CategoryTheory.Limits.compCoyonedaSectionsEquiv), so the docstring should at least reference this? (Though it is not the _exact_ same construction).
- To mimic the pattern from `CategoryTheory.Limits.compCoyonedaSectionsEquiv`, perhaps this should instead first be stated as an equivalence with natural transformations from the constant functor (dropping `c'` from the parameters) to a composition with `shrinkYoneda`, and then maybe for the result in this file you can work with composing this with an equivalence between morphisms out of `c'.pt` and natural transformations out of a constant functor in that case?

Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/Types/PreservesLimit.lean]: Thanks for the suggestion, but I do not see any relation with `compCoyonedaSectionsEquiv`. As `IsColimit` appears in all the definitions, I do not think it would make sense to break the cocone `c'` into two variables.

Comment (robin-carlier) [reply Mathlib/CategoryTheory/Limits/Types/PreservesLimit.lean]: Okay, but can you still move that part (say up to l. 83) to the file `CategoryTheory.Limits.Types.Yoneda` (or a new file under `CategoryTheory/Limits/Types` if there are import increase issues)? It has pretty low discoverability within `ObjectProperty/`.

**Review by robin-carlier — COMMENTED** [review]
I still have a nitpick about the location of the result relating sections and morphisms from the cocone point, but otherwise LGTM.

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge

File: Mathlib/CategoryTheory/Limits/Types/PreservesLimit.lean [hunk 4]
```diff
@@ -0,0 +1,150 @@
...
+  coconePtToShrinkYoneda (limit.cone F) (colimit.isColimit _)
+
+lemma preservesLimit_eq_isLocal :
+    ObjectProperty.preservesLimit F =
+      (MorphismProperty.ofHoms (preservesLimitHomFamily F)).isLocal := by
+  ext G
+  by_cases hF : HasLimit F
+  · rw [preservesLimit_eq_isLocal_single (limit.isLimit F) (colimit.isColimit _)]
+    convert Iff.rfl
+    ext _ _ f
```
Comment (smorel394) [inline Mathlib/CategoryTheory/Limits/Types/PreservesLimit.lean]:
```suggestion
    ext
```

File: Mathlib/CategoryTheory/Limits/Types/PreservesLimit.lean [hunk 5]
```diff
@@ -0,0 +1,150 @@
...
+if `F` has a limit, or is the empty family otherwise. -/
+noncomputable abbrev preservesLimitHomFamily (h : PLift (HasLimit F)) :
+    preservesLimitHomFamilySrc F ⟶ preservesLimitHomFamilyTgt F h :=
+  letI := h.down
+  coconePtToShrinkYoneda (limit.cone F) (colimit.isColimit _)
+
+lemma preservesLimit_eq_isLocal :
+    ObjectProperty.preservesLimit F =
+      (MorphismProperty.ofHoms (preservesLimitHomFamily F)).isLocal := by
+  ext G
```
Comment (smorel394) [inline Mathlib/CategoryTheory/Limits/Types/PreservesLimit.lean]:
```suggestion
  ext
```

File: Mathlib/CategoryTheory/Limits/Types/PreservesLimit.lean [hunk 6]
```diff
@@ -0,0 +1,150 @@
...
+        rw [shrinkYonedaEquiv_shrinkYoneda_map]
+        apply map_shrinkYonedaEquiv }
+  invFun s := hc'.desc (Cocone.mk _
+    { app j := shrinkYonedaEquiv.symm (s.val j.unop)
+      naturality j₁ j₂ f := by
+        rw [← s.property f.unop]
+        dsimp
+        rw [shrinkYonedaEquiv_symm_map, Category.comp_id] })
+  left_inv f := hc'.hom_ext (by simp)
+  right_inv u := by ext; simp
```
Comment (smorel394) [inline Mathlib/CategoryTheory/Limits/Types/PreservesLimit.lean]:
```suggestion
  right_inv u := by cat_disch
```

File: Mathlib/CategoryTheory/Limits/Types/PreservesLimit.lean [hunk 7]
```diff
@@ -0,0 +1,150 @@
...
+
+set_option backward.defeqAttrib.useBackward true in
+set_option backward.isDefEq.respectTransparency false in
+variable {P} in
+@[reassoc]
+lemma coconePtToShrinkYoneda_comp (x : P.obj c.pt) :
+    coconePtToShrinkYoneda c hc' ≫ shrinkYonedaEquiv.symm x =
+      (coconeCompShrinkYonedaHomEquiv hc').symm
+        (Types.sectionOfCone (P.mapCone c) x) := by
+  refine hc'.hom_ext (fun j ↦ ?_)
```
Comment (smorel394) [inline Mathlib/CategoryTheory/Limits/Types/PreservesLimit.lean]:
```suggestion
  refine hc'.hom_ext (fun _ ↦ ?_)
```

**Comment by smorel394** [comment]
> Thanks!
> 
> maintainer merge

I agree with Robin.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
